US04567279
7-(4-Benzyloxyphenyl)-1-(4-hexyloxyphenyl)-5-hydroxyheptan-3-one
In a manner similar to Example 3, 2.48 g (10 mmol) of 4-(4-hexyloxyphenyl)-butan-2-one was treated with 15 mmol of lithium diisopropylamine, followed by 3 g (12 mmol) of 3-(4-benzyloxyphenyl)-propan-1-al to give, after purification (silica gel dry column, hexane: ethyl acetate, 2:1), 0.7 g of the title compound pound as a pale yellow oil. MS(EI): 488 (m+), 470 (m+ -H2O) Using the method described hereinabove, the following examples further illustrate the invention:

reactant | 4-(4-hexyloxyphenyl)-butan-2-one | 10 mmol, 2.48 g | C(CCCCC)OC1=CC=C(C=C1)CCC(C)=O | C16H24O2
reactant | lithium diisopropylamine | 15 mmol | C(C)(C)NC(C)C.[Li]
reactant | 3-(4-benzyloxyphenyl)-propan-1-al | 12 mmol, 3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC=O | C16H16O2
product | 7-(4-Benzyloxyphenyl)-1-(4-hexyloxyphenyl)-5-hydroxyheptan-3-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(CC(CCC1=CC=C(C=C1)OCCCCCC)=O)O | C32H40O4
